US08431575B2
1-(4-{-4-[3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-phenoxymethyl}-piperidin-1-yl)-ethanone dihydrochloride
To a solution of 3-butyl-6-(1-methyl-piperidin-4-yloxy)-4-[4-(piperidin-4-ylmethoxy)-phenyl]-pyridazine dihydrochloride (0.2 mmol, 103 mg) in DCM (1 mL) at 0° C. was added acetyl chloride (0.4 mmol, 29 μL), DIEA (0.4 mmol, 70 μL) and DMAP (5 mg). The mixture was stirred at room temperature for 1 hour. The mixture was then condensed in vacuo and the residue was purified by silica gel chromatography (DCM to DCM+10% 2N NH3 in MeOH) to give a colorless sticky solid, which was dissolved in DCM (1.0 mL), 2N HCl in ether (1.0 mL) was added, kept at room temperature for 10 min, condensed, triturated with hexanes to provide the title compound. LCMS: m/z 482 [M+1]. 1H NMR (400 MHz, CD3OD): δ 7.63 and 7.75 (1H, s), 7.44-7.50 (2H, m), 7.12-7.17 (2H, m), 5.37-5.54 (1H, m), 4.37 (2H, d), 3.36-3.69 (3H, m), 3.08-3.30 (4H, m), 2.92 (3H, s), 2.11-2.74 (5H, m), 2.10 (3H, s), 1.86-2.08 (4H, m), 1.25-1.54 (7H, m), 0.82 (3H, t).

reactant | 3-butyl-6-(1-methyl-piperidin-4-yloxy)-4-[4-(piperidin-4-ylmethoxy)-phenyl]-pyridazine dihydrochloride | 0.2 mmol, 103 mg | Cl.Cl.C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OCC1CCNCC1)OC1CCN(CC1)C
reactant | acetyl chloride | 0.4 mmol, 29 μL | C(C)(=O)Cl | C2H3ClO
reactant | DIEA | 0.4 mmol, 70 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 2N | Cl | ClH
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 1.0 mL | CCOCC | C4H10O
product | 1-(4-{-4-[3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-phenoxymethyl}-piperidin-1-yl)-ethanone dihydrochloride | Cl.Cl.C(CCC)C=1N=NC(=CC1C1=CC=C(OCC2CCN(CC2)C(C)=O)C=C1)OC1CCN(CC1)C | InChI=1S/C28H40N4O3.2ClH/c1-4-5-6-27-26(19-28(30-29-27)35-25-13-15-31(3)16-14-25)23-7-9-24(10-8-23)34-20-22-11-17-32(18-12-22)21(2)33;;/h7-10,19,22,25H,4-6,11-18,20H2,1-3H3;2*1H
